### PR TITLE
rt: move schedContextDonate and related lemmas

### PR DESCRIPTION
**Pull request by corlewis**
I'm not quite sure what the best approach to reviewing this will be. It's almost all lemmas that have been moved with a couple of minor updates to proofs being required in a few places.

Most lemmas have ended up in TcbAcc_R, SchedContext_R or Schedule_R, so you might want to focus on where lemmas now are and if you agree with that file.

I have also reordered the dependency graph slightly so that Reply_R imports Schedule_R which imports SchedContext_R. This led to much less lemmas needing to be moved and I think results in all of the required results being available where we expect them to be needed.

### CODE REVIEW

**Review by MitchellBuckley — APPROVED** [review]
Love it :)

**Comment by corlewis** [comment]
Whoops, I missed `schedContextDonate_corres`. I'll hopefully have that done as well and in this PR soon.

File: proof/refine/ARM/Schedule_R.thy [hunk 1]
```diff
@@ -3041,4 +2908,336 @@ lemma ct_released_cross_weak:
...
+            schedContextDonate_valid_idle' schedContextDonate_if_live_then_nonz_cap')
+  apply (clarsimp simp: obj_at'_def projectKO_eq projectKO_sc)
+  apply (drule_tac ko=obj in sym_refs_ko_atD'[rotated, where p=scPtr])
+   apply (auto dest!: global'_sc_no_ex_cap
+               simp: ko_wp_at'_def obj_at'_def projectKO_eq projectKO_tcb
+                     pred_tcb_at'_def valid_idle'_def idle_tcb'_def refs_of_rev')
+  done
+
+
+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Schedule_R.thy:3027]: Couple extra lines

File: proof/refine/ARM/Schedule_R.thy [hunk 2]
```diff
@@ -3041,4 +2908,336 @@ lemma ct_released_cross_weak:
...
+lemma tcbSchedDequeue_nonq:
+  "\<lbrace>valid_queues and tcb_at' t and K (t = t')\<rbrace>
+   tcbSchedDequeue t
+   \<lbrace>\<lambda>_ s. t' \<notin> set (ksReadyQueues s (d, p))\<rbrace>"
+  apply (rule hoare_gen_asm)
+  apply (simp add: tcbSchedDequeue_def)
+  apply (wpsimp wp: threadGet_wp)
+  apply (fastforce simp: valid_queues_def valid_queues_no_bitmap_def obj_at'_def inQ_def)
+  done
+
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Schedule_R.thy:3045]: New lines

**Review by michaelmcinerney — APPROVED** [review]

File: proof/refine/ARM/Schedule_R.thy (hunk 1 above)
Comment (corlewis) [reply proof/refine/ARM/Schedule_R.thy:3027]: Good catch. I wasn't sure whether to put these `tcbSchedDequeue` lemmas here or even earlier, and forgot to come back and make a decision. I'll have a look at them and either move them to `TcbAcc_R`, or remove the extra lines surrounding them.

**Review by mktnk3 — APPROVED** [review]
Thanks for doing this Corey. It looks like more work than I thought, sorting out all the dependencies.

**Review by VictorPhan — APPROVED** [review]
